US04731358
360 mg of 6-amino-β-carboline are heated in 20 ml of ethanol with 0.54 ml of allylbromide and 0.74 ml diazabicycloundecene for 3 hours at 70° C. After concentration to dryness and dispersing in ethyl acetate/saturated sodium chloride solution, the organic phase is separated, dried, filtered and concentrated. The residue is chromatographed on silica gel with cyclohexane/ethyl acetate=1:1 as eluant and 50 mg of 6-diallylamino-β-carboline as oil are obtained.

reactant | 6-amino-β-carboline | 360 mg | NC=1C=C2C=3C=CN=CC3NC2=CC1 | C11H9N3
reactant | allylbromide | 0.54 ml | C(C=C)Br | C3H5Br
reactant | diazabicycloundecene | 0.74 ml | C1(=NNCCCCCCCC1)C1=CCCCCCCCCC1 | C20H36N2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 6-diallylamino-β-carboline | 50 mg | C(C=C)N(C=1C=C2C=3C=CN=CC3NC2=CC1)CC=C | C17H17N3
